US08217028B2
Aqueous NaOH solution (2 N, 2 mL) was added to a solution of ethyl (2E)-3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]-2-propenoate (D27) (20 mg) in ethanol (10 mL) and dioxane (5 mL) at RT. The resulting solution was stirred for 1 hour. Ethanol and dioxane were evaporated. The solid was filtered and washed with water. The solid was collected and dried to afford sodium (2E)-3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]-2-propenoate (E10) (8 mg) as a pale yellow solid. δH (DMSO-d6, 400 MHz): 1.39 (6H, d), 4.99 (1H, m), 6.48 (1H, d), 6.66 (1H, s), 7.11 (1H, d), 7.46 (1H, d), 7.56 (1H, d), 7.77 (1H, d), 8.25 (1H, s), 8.42 (1H, dd) 8.51 (1H, d). MS (ES): C25H21N4O4Na requires 436; found 415.0 (M—Na++2H+).

reactant | NaOH | 2 N, 2 mL | [OH-].[Na+]
reactant | ethyl (2E)-3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]-2-propenoate | 20 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=CC1)/C=C/C(=O)OCC | C25H22N4O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | sodium (2E)-3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-2-yl]-2-propenoate | 8 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=C2C=C(NC2=CC1)/C=C/C(=O)[O-].[Na+] | InChI=1S/C23H18N4O4.Na/c1-13(2)30-20-7-4-15(10-17(20)12-24)23-26-22(27-31-23)14-3-6-19-16(9-14)11-18(25-19)5-8-21(28)29;/h3-11,13,25H,1-2H3,(H,28,29);/q;+1/p-1/b8-5+;
